US04109088
To 1 g. of 2-(1-oxo-4-indanyloxymethyl)-4-triphenylmethyl morpholine was added 10 ml. of trifluoroacetic acid under ice-cooling to dissolve the morpholine and 10 ml. of water was immediately added to the solution followed by stirring for 15 minutes at 5°-10° C. Then, after neutralizing the reaction mixture with sodium hydrogencarbonate, the product was extracted with chloroform. Then, the extract was washed with water, dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The sticky residue formed was subjected to a silica gel column chromatography (column diameter 3 cm., height 7 cm,) and from the fraction recovered therefrom using a 98 : 2 mixture of chloroform and methanol as an eluting solution, 0.45 g. (yield 89.1%) of sticky 2-(1-oxo-4-indanyloxymethyl)morpholine was obtained.

reactant | 2-(1-oxo-4-indanyloxymethyl)-4-triphenylmethyl morpholine | O=C(C1CN(CCO1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OC1=C2CCCC2=CC=C1 | C33H31NO3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 2-(1-oxo-4-indanyloxymethyl)morpholine | yield 89.1% | O=C(C1CNCCO1)OC1=C2CCCC2=CC=C1 | C14H17NO3
